US04895840
N-[2-[(2-Furanylmethyl)thio]ethyl]-2-propanamine hydrochloride
A solution of 2-chloroethyl-2-furanylmethyl sulfide in isopropylamine is agitated 8-12 hr in a stainless steel bomb at 80° C. The reaction mixture is then stripped to dryness and the residue is partitioned between water and chloroform. The chloroform layer is extracted with 1N sulfuric acid; whereupon two layers are obtained: a water phase (upper), and a chloroform phase (lower). The aqueous phase is made alkaline and extracted with chloroform. Evaporation of the organic layer yields the free base of the title compound, which is reacted with ethereal hydrogen chloride to give the hydrochloride salt which is then recrystallized from methanol/diethyl ether.

reactant | 2-chloroethyl-2-furanylmethyl sulfide | ClCCC(C=1OC=CC1)SC(CCCl)C=1OC=CC1 | C14H16Cl2O2S
reactant | water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-[2-[(2-Furanylmethyl)thio]ethyl]-2-propanamine hydrochloride | Cl.O1C(=CC=C1)CSCCNC(C)C | InChI=1S/C10H17NOS.ClH/c1-9(2)11-5-7-13-8-10-4-3-6-12-10;/h3-4,6,9,11H,5,7-8H2,1-2H3;1H
